US08492378B2
2-[3-(4-methoxyphenyl)-1-benzofuran-5-yl]-5-[(3-methylbenzyl)thio]-1,3,4-oxadiazole
In the same manner as in Example 1 and using 5-[3-(4-methoxyphenyl)-1-benzofuran-5-yl]-1,3,4-oxadiazole-2-thiol instead of 5-(benzothiazol-6-yl)-1,3,4-oxadiazole-2-thiol and 3-methylbenzyl bromide instead of 3-(trifluoromethyl)benzyl chloride, the title compound (yield 80%) was obtained as colorless crystals.

reactant | 5-[3-(4-methoxyphenyl)-1-benzofuran-5-yl]-1,3,4-oxadiazole-2-thiol | COC1=CC=C(C=C1)C1=COC2=C1C=C(C=C2)C2=NN=C(O2)S | C17H12N2O3S
reactant | 3-methylbenzyl bromide | CC=1C=C(CBr)C=CC1 | C8H9Br
product | 2-[3-(4-methoxyphenyl)-1-benzofuran-5-yl]-5-[(3-methylbenzyl)thio]-1,3,4-oxadiazole | yield 80% | COC1=CC=C(C=C1)C1=COC2=C1C=C(C=C2)C=2OC(=NN2)SCC2=CC(=CC=C2)C | C25H20N2O3S
